US08912169B2
Step 2: Synthesis of Ethyl 2-[4-[2-(tert-butoxycarbonylamino)ethyl-methyl-amino]cyclohexyl]acetate
To a solution of ethyl 2-[4-[2-(tert-butoxycarbonylamino)ethylamino]cyclohexyl]acetate (326 mg, 1 mmol) in dichloromethane (4 mL) was added formalin (97 μL, 1.2 mmol) followed by acetic acid (60 μL, 1 mmol) and sodium triacetoxyborohydride (255 mg, 1.2 mmol). The resulting cloudy solution was stirred for 19 hours. To this mixture was added sodium carbonate (2 mL, saturated aqueous solution). The mixture was diluted with ethyl acetate and separated. The organic extract was washed with brine, dried over magnesium sulfate and concentrated. The residue was purified by silica chromatography (10 g silica; eluted with 2-20% methanol in dichloromethane) to give the title compound.

reactant | ethyl 2-[4-[2-(tert-butoxycarbonylamino)ethylamino]cyclohexyl]acetate | 1 mmol, 326 mg | C(C)(C)(C)OC(=O)NCCNC1CCC(CC1)CC(=O)OCC | C17H32N2O4
reactant | formalin | 1.2 mmol, 97 μL | C=O | CH2O
reactant | acetic acid | 1 mmol, 60 μL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 1.2 mmol, 255 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium carbonate | 2 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl 2-[4-[2-(tert-butoxycarbonylamino)ethyl-methyl-amino]cyclohexyl]acetate | C(C)(C)(C)OC(=O)NCCN(C1CCC(CC1)CC(=O)OCC)C | C18H34N2O4
